US05965555
A1) 1-Chloro-8-diethylamino-5-hydroxy-5-methyl-6-octyne
12.37 ml (19.8 mmol) of a 1.6 M solution of n-butyllithium in n-hexane were slowly added dropwise to a solution of 2.0 g (18 mmol) of N,N-diethyl-2-propynylamine (Example 1C1)) in 50 ml of tetrahydrofuran at -78° C. After one hour at -78° C., the mixture was warmed to room temperature, and 2.42 g (18 mmol) of 1-chloro-5-hexanone were added. Stirring at room temperature for one hour was followed by adjustment to pH 7 with 2 N hydrochloric acid and partitioning between 5% strength sodium bicarbonate solution and dichloromethane. The organic phase was dried over magnesium sulfate, the solvent was removed under reduced pressure. Yield: 4.38 (99% of theory); oily product

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N-diethyl-2-propynylamine | 18 mmol, 2.0 g | C(C)N(CC)CC#C | C7H13N
reactant | 1-chloro-5-hexanone | 18 mmol, 2.42 g | ClCCCCC(C)=O | C6H11ClO
reactant | hydrochloric acid | 2 N | Cl | ClH
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 1-Chloro-8-diethylamino-5-hydroxy-5-methyl-6-octyne | ClCCCCC(C#CCN(CC)CC)(C)O | C13H24ClNO
